US05168103
A solution of 1,3-diamino-2-hydroxypropane (27.0 g, 0.300 mol) in dry acetonitrile (270 mL) was maintained at ambient temperature with a water bath and was treated with di-t-butyl dicarbonate (23.0 mL, 0.100 mol) in acetonitrile (90 mL) over 2 hours with vigorous mechanical stirring and then was left overnight. The reaction mixture was concentrated in vacuo and the residue was dissolved in brine (250 mL) to which bromocresol green was added. The mixture was treated with 1N hydrochloric acid solution until it just turned yellow, washed with dichloromethane (3×250 mL), and then made basic (pH 12) by the addition of 2.5N sodium hydroxide solution. The product was extracted into chloroform (15×250 mL), dried with sodium sulfate, and concentrated to yield (3-amino-2-hydroxypropyl)carbamic acid 1,1-dimethylethyl ester as a white solid (7.76 g, 41%, mp 77°-79° C.); IR (KBr, cm-1): 3360, 1680; MS (+FAB): 191 (MH+ , 42), 135 (100), 58 (78); 1H NMR (CDCl3, 400 MHz): δ 5.04 (br s, NH), 3.65-3.60 (m, 1H), 3.34-3.22 (m, 1H), 3.12-3.05 (m, 1H), 2.83 (d of d, J=13 and 4 Hz, 1H), 2.63 (d of d, J=13 and 7.5 Hz, 1H), 1.44 (s, 9H).

reactant | 1,3-diamino-2-hydroxypropane | 0.300 mol, 27.0 g | NCC(CN)O | C3H10N2O
reactant | di-t-butyl dicarbonate | 0.100 mol, 23.0 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 270 mL | C(C)#N | C2H3N
solvent | acetonitrile | 90 mL | C(C)#N | C2H3N
product | (3-amino-2-hydroxypropyl)carbamic acid 1,1-dimethylethyl ester | 7.76 g, 41% | CC(C)(C)OC(NCC(CN)O)=O | C8H18N2O3
